US06436923B1
A. 2-(2-Chloropyrimidin-4-yl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline
A mixture of 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline (0.72 g, 2.0 mmol), 2,4-dichloropyrimidine (0.298 g, 2.0 mmol), and sodium bicarbonate (0.2 g, 2.4 mmol) in ethanol (10 mL) was heated at 80 ° C. for 3 hours. It was quenched with water and extracted with CH2Cl2. The organic layer was dried over MgSO4, filtered, and concentrated. The residue was purified by chromatography (SiO2, 30-6-% ethyl acetate/hexane) to provide the title compound (0.749 g, 79% yield): 1H NMR (CDCl3) 7.95 (d, 1H), 7.32-7.41 (m, 4H), 6.94 (d, 2H), 6.83 (d, 2H), 6.69 (m, 3H), 6.37 (m, 1H), 5.9 (d, 1H), 5.03 (s, 2H), 4.97 (m, 1H), 3.80 (s, 3H), 3.25-3.62 (m, 2H), 3.13 (m, 1H), 2.86 (m, 3H); ES-MS (m/z) 472 [M+H]+.

reactant | 6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 2.0 mmol, 0.72 g | COC=1C=C2CCNC(C2=CC1)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C24H25NO2
reactant | 2,4-dichloropyrimidine | 2.0 mmol, 0.298 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | sodium bicarbonate | 2.4 mmol, 0.2 g | C([O-])(O)=O.[Na+]
solvent | ethanol | 10 mL | C(C)O | C2H6O
product | 2-(2-Chloropyrimidin-4-yl)-6-methoxy-1-[4-(phenylmethoxy)benzyl]-1,2,3,4-tetrahydroisoquinoline | 0.749 g, 79% yield | ClC1=NC=CC(=N1)N1C(C2=CC=C(C=C2CC1)OC)CC1=CC=C(C=C1)OCC1=CC=CC=C1 | C28H26ClN3O2
